US07595397B2
2-(S)-Benzyl-4-(2′-chloro-biphenyl-4-ylmethyl)-piperazine-1-carboxylic acid phenylamide
50 mg of 3-(S)-benzyl-1-(2′-chloro-biphenyl-4-ylmethyl)-piperazine were dissolved in dichloromethane, 2 equiv. phenylisocyanate was be added. The reaction was shaken at room temperature overnight. The reaction was concentrated in vacuo and the crude purified by column chromatography to afford 50 mg of the title compound as the free base. Treatment with 1 equiv. 2 M HCl in dioxane afforded 44 mg of its hydrochloride salt. Yield: 62%, ES MS (+) m/z 496.

reactant | 3-(S)-benzyl-1-(2′-chloro-biphenyl-4-ylmethyl)-piperazine | 50 mg | C(C1=CC=CC=C1)[C@H]1CN(CCN1)CC1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C24H25ClN2
reactant | phenylisocyanate | 2 equiv. | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(S)-Benzyl-4-(2′-chloro-biphenyl-4-ylmethyl)-piperazine-1-carboxylic acid phenylamide | 50 mg | C1(=CC=CC=C1)NC(=O)N1[C@H](CN(CC1)CC1=CC=C(C=C1)C1=C(C=CC=C1)Cl)CC1=CC=CC=C1 | C31H30ClN3O
